US07893090B2
Description 54: (RS)-2-(Methoxy-methyl-carbamoyl)-4-methyl-piperazine-1-carboxylic acid dimethyl-ethyl ester
A mixture of (RS)-2-(Methoxy-methyl-carbamoyl)-4-methyl-piperazine-1-carboxylic acid benzyl ester, D53 (2.9 g, 9 mmol) and di-tert-butyl dicarbonate (2.4 g, 11 mmol) in ethyl acetate (180 ml) was hydrogenated at NTP over 10% Pd—C (1.45 g, 50% aqueous paste) for 64 h. The mixture was filtered through kieselguhr, washed with ethyl acetate and the filtrate evaporated. The residue was chromatographed on silica gel eluting with ethyl acetate-methanol mixtures to afford the title product as a white solid (2.9 g, 92%).

reactant | (RS)-2-(Methoxy-methyl-carbamoyl)-4-methyl-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C)C(N(C)OC)=O | C16H23N3O4
reactant | di-tert-butyl dicarbonate | 11 mmol, 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 180 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 1.45 g | [Pd] | Pd
product | (RS)-2-(Methoxy-methyl-carbamoyl)-4-methyl-piperazine-1-carboxylic acid dimethyl-ethyl ester | 2.9 g, 92% | CC(C)(C)OC(=O)N1C(CN(CC1)C)C(N(C)OC)=O | C13H25N3O4
